US07618989B2
A mixture of 5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (11.5 g, 39.0 mmol), prepared in the previous step, and zinc cyanide (2.7 g, 23.5 mmol) in dry dimethylformamide (100 mL) was degassed and put under a nitrogen atmosphere. Tetrakis(triphenylphosphine)palladium(0) (1.7 g, 1.5 mmol) was added and the mixture again degassed and put under a nitrogen atmosphere. The mixture was stirred at 135° C. overnight. An additional 171 mg of tetrakis(triphenylphosphine)palladium(0) was added and the reaction stirred for another 4 h. The reaction mixture was filtered through the Celite™ reagent and rinsed with ethyl acetate. The filtrate was washed with water. The layers were separated and the organic layer was dried over anhydrous sodium sulfate. The organic layer was filtered and concentrated in vacuo to give 8.1 g of crude product. Purification of the crude product on silica gel using a step-wise gradient of 5% to 15% ethyl acetate: hexane as the eluent gave 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carbonitrile (2.8 g, 41%), MS(ES) m/z 172 [M+H]+.

reactant | 5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 39.0 mmol, 11.5 g | FC(S(=O)(=O)OC1=CC=2CCCC(C2C=C1)=O)(F)F | C11H9F3O4S
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 23.5 mmol, 2.7 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 1.5 mmol, 1.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carbonitrile | 2.8 g, 41% | O=C1C=2C=CC(=CC2CCC1)C#N | C11H9NO
